US04863904
To a solution of 8.71 g of succinic acid ethyl ester and 7.81 g of 1-naphthylaldehyde in 50 ml of absolute ethanol was added 3.02 g of a 50% sodium hydride (suspension in oil) under ice-cooling, and then the mixture was heated under reflux for 3 hours. After cooling, the reaction mixture was concentrated under reduced pressure. Water was added to the residue, and the mixture was extracted with diethyl ether to remove neutral materials. The aqueous layer was acidified by adding concentrated hydrochloric acid and extracted with diethyl ether. The ethereal layer was washed with a saturated sodium chloride aqueous solution, and dried over anhydrous magnesium sulfate. The ethereal solution was concentrated under reduced pressure to obtain 11.8 g of 3-ethoxycarbonyl-4-(1-naphthyl-3-butenoic acid as a yellow oil.

reactant | succinic acid ethyl ester | 8.71 g | C(C)OC(CCC(=O)O)=O | C6H10O4
reactant | 1-naphthylaldehyde | 7.81 g | C1=CC=C2C(=C1)C=CC=C2C=O | C11H8O
reactant | sodium hydride | [H-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1-naphthyl-3-butenoic acid | C1(=CC=CC2=CC=CC=C12)C(C(=O)O)C=C | C14H12O2
